US06562849B1
1-[2-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]-3-[4-(trifluoromethyl)phenyl]urea hydrochloride (hydrochloride of exemplification compound number 1-172)
1-[2-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]-3-(4-trifluoromethylphenyl)urea hydrochloride was obtained by a similar procedure to that described in Example 31 using 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (0.3 g), α,α,α-trifluoro-p-tolyl isocyanate (97 mg), triethylamine (65 mg) and anhydrous N,N-dimethylformamide (5 ml). To a solution of the product in tetrahydrofuran (10 ml) was added 4N hydrogen chloride in 1,4-dioxane (10 ml) and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added diethyl ether (50 ml) and this mixture was further stirred for 30 minutes. The precipitate was isolated by filtration and washed with ethyl acetate to afford the title compound (0.3 g, mp 153-156° C.).

reactant | 5-[4-[6-[4-(2-aminoethyl)phenoxy]-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 0.3 g | Cl.Cl.NCCC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | α,α,α-trifluoro-p-tolyl isocyanate | 97 mg | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | triethylamine | 65 mg | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)ethyl]-3-[4-(trifluoromethyl)phenyl]urea hydrochloride | 0.3 g | Cl.O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC3=CC=C(C=C3)CCNC(=O)NC3=CC=C(C=C3)C(F)(F)F)C=C1 | InChI=1S/C35H30F3N5O5S.ClH/c1-43-29-19-27(14-15-28(29)41-31(43)20-47-25-10-4-22(5-11-25)18-30-32(44)42-34(46)49-30)48-26-12-2-21(3-13-26)16-17-39-33(45)40-24-8-6-23(7-9-24)35(36,37)38;/h2-15,19,30H,16-18,20H2,1H3,(H2,39,40,45)(H,42,44,46);1H
